US04465838
β-(4,5-Diphenyloxazol-2-yl)propionic acid calcium salt
β-(4,5-Diphenyloxazol-2-yl)propionic acid (oxaprozin) was converted to the sodium salt by stirring the acid (6 kg) in distilled water (60 kg) and 46-48% sodium hydroxide liquor (1.85 kg). A filtered solution of calcium chloride dihydrate B.P. (2.44 kg) in distilled water was added and the title compound precipitated as a white solid. This was collected on a vacuum filter and washed with distilled water until the filtrate was free from chloride. The product was dried in an air oven to give a yield of 6.7 kg (98% of theory) of the title compound as a tetrahydrate.

reactant | β-(4,5-Diphenyloxazol-2-yl)propionic acid | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCC(=O)O | C18H15NO3
reactant | sodium | [Na] | Na
reactant | calcium chloride dihydrate | O.O.[Cl-].[Ca+2].[Cl-]
solvent | water | 60 kg | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | β-(4,5-Diphenyloxazol-2-yl)propionic acid calcium salt | [Ca+2].C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCC(=O)[O-].C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCC(=O)[O-] | InChI=1S/2C18H15NO3.Ca/c2*20-16(21)12-11-15-19-17(13-7-3-1-4-8-13)18(22-15)14-9-5-2-6-10-14;/h2*1-10H,11-12H2,(H,20,21);/q;;+2/p-2
